US05342395
EXAMPLE 8: GENERAL POLYMERIZATION PROCEDURE FOR l-LACTIDE/GLYCOLIDE-TRIMETHYLENE CARBONATE
Trimethylene carbonate (TMC, 34.0 grams), diethylene glycol (DEG, 17.7 mg) and stannous octoate (20.2 mg) were combined and melted under a nitrogen atmosphere. The mixture was charged into a nitrogen purged stirred reactor at 200° C. The contents were stirred at this temperature for 25 minutes, at which point the mixture had obtained maximum melt viscosity. l-Lactide (l-Lac, 168.7 grams) and Glycolide (Gly, 18.7 grams) were melted and charged into the reactor. The contents were stirred at 200° C. for 2 hours at which point the mixture had again obtained maximum melt viscosity. The polymer was discharged from the reactor, ground, and dried in a vacuum oven at 100° C. and 0.2 mm Hg. The polymer had an inherent viscosity of 1.31 dl/g in chloroform, measured at 30° C. on a 0.5% solution. The polymer composition, as measured by 1H-NMR spectroscopy was 15.9/75.1/9.0 weight percent TMC/l-LAC/Gly.

reactant | Trimethylene carbonate | 34.0 grams | C1(OCCCO1)=O | C4H6O3
reactant | stannous octoate | 20.2 mg | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | l-Lactide | 168.7 grams | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | Glycolide | 18.7 grams | C1C(=O)OCC(=O)O1 | C4H4O4
solvent | diethylene glycol | 17.7 mg | C(COCCO)O | C4H10O3
product | l-LACTIDE GLYCOLIDE TRIMETHYLENE CARBONATE | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1C(=O)OCC(=O)O1.C1(OCCCO1)=O | InChI=1S/C6H8O4.C4H4O4.C4H6O3/c1-3-5(7)10-4(2)6(8)9-3;5-3-1-7-4(6)2-8-3;5-4-6-2-1-3-7-4/h3-4H,1-2H3;1-2H2;1-3H2/t3-,4-;;/m0../s1
